US04552866
(3S)-N-[N-(3-Amino-2-hydroxy-5-methylhexyl)-L-leucyl]-L-valine, methyl ester, dihydrochloride (Isomer B)
A solution of 109 mg of (3S)-N-[N-(3-amino-2-hydroxy-5-methylhexyl)-N-[(phenylmethoxy)-carbonyl]-L-leucyl]-L-valine, methyl ester (Isomer B, prepared from N-[(3S)-3-[[(t-butyloxy)carbonyl]-amino]-2-hydroxy-5-methylhexyl]-N-[(phenylmethoxy)carbonyl]-L-leucine, 2-(trimethylsilyl)ethyl ester, Isomer B using a procedure analogous to that described in Example 8 for preparing the corresponding Isomer A) in 3 ml of methanol was treated with 0.63 ml of 1N hydrochloric acid and 75 mg of 10% palladium on charcoal and subjected to a steady stream of hydrogen at 1 atmosphere pressure. After 3 hours, a silica gel TLC run in 9:1, chloroform: methanol, checked with UV and PMA, indicated complete disappearance of the starting compound. The reaction was worked up by filtering through a Celite pad, concentrating the filtrate in vacuo, and recrystallizing the residue from methanol/ether at room temperature, then storing in the freezer overnight to afford 73 mg of partially purified product, melting at 232°-234° C. Chromatography was performed on a 35 ml column of HP-20 resin, eluting with a gradient from 175 ml of 96:3:1 to 2:2:96, water: 1N hydrochloric acid: methanol. The fractions were checked by silica gel TLC run in 5:1:1:1, butanol: pyridine:acetic acid:water and sprayed with ninhydrin. Pooling of product containing fractions followed by lyophilization yielded 17 mg of the title compound as a hydrate with 1.0 mole of water, melting point 125°-140° C.

reactant | (3S)-N-[N-(3-amino-2-hydroxy-5-methylhexyl)-N-[(phenylmethoxy)-carbonyl]-L-leucyl]-L-valine, methyl ester | 109 mg | N[C@H](C(CN([C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1)O)CC(C)C | C27H45N3O6
reactant | N-[(3S)-3-[[(t-butyloxy)carbonyl]-amino]-2-hydroxy-5-methylhexyl]-N-[(phenylmethoxy)carbonyl]-L-leucine, 2-(trimethylsilyl)ethyl ester | C(C)(C)(C)OC(=O)N[C@H](C(CN([C@@H](CC(C)C)C(=O)OCC[Si](C)(C)C)C(=O)OCC1=CC=CC=C1)O)CC(C)C | C31H54N2O7Si
reactant | hydrochloric acid | 1N, 0.63 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | water | 1.0 mole | O | H2O
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium on charcoal | 75 mg | [Pd] | Pd
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (3S)-N-[N-(3-Amino-2-hydroxy-5-methylhexyl)-L-leucyl]-L-valine, methyl ester, dihydrochloride | 17 mg | Cl.Cl.N[C@H](C(CN[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC)O)CC(C)C | InChI=1S/C19H39N3O4.2ClH/c1-11(2)8-14(20)16(23)10-21-15(9-12(3)4)18(24)22-17(13(5)6)19(25)26-7;;/h11-17,21,23H,8-10,20H2,1-7H3,(H,22,24);2*1H/t14-,15-,16?,17-;;/m0../s1
